Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left foot Plantar Ulcer
 
Major Surgical or Invasive Procedure:
1. Ultrasound-guided access to the right common femoral
    artery.
2. Selective catheterization of the left external iliac
    artery, ___ order vessel.
3. Abdominal aortogram.
4. Left lower extremity diagnostic angiogram.

5. Left groin cutdown and femoral endarterectomy.
6. Left common femoral artery angioplasty using greater
    saphenous vein patch.
7. Left femoral to peroneal bypass graft with non-reverse
    greater saphenous vein.

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of popliteal 
stent, IIDM, CKD, CAD s/p stents, preadmitted for hydration 
prior to an angiogram. He reports having this ulcer for about a 
year but has had problems with his toe amputation site since 
___. He does have diabetic neuropathy and uses an offloading 
shoe. He denies any rest pain or symptoms of claudication. His 
wife currently does his dressing changes with wet to dry gauze. 

 
Past Medical History:
Hypertension, Type 2 Diabetes, Peripheral Neuropathy, Sleep 
Apnea, Renal failure, PVD, GOUT, Coronary Artery Disease 
(CAD)GAMMOPATHY, Colonyc polyps, Diabetic Neuropathy, Anemia, 
Peptic Ulcer Disease, Restless Leg Syndrome, Osteomyelitis, 
Charcot foot, basal cell carcinoma, ischemic cardiomyopathy, 
Transient Ischemic Attack (TIA)

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Admission PE:

PE: 97.7 74 131/77 16 97%RA
General: comfortable, NAD
___: RRR, no murmurs
Pulm: no respiratory distress
Abdomen: soft, NT, ND
Ext: b/l: P/D/D/D
Right toe amputation site is generally well healed with some dry
skin over the incision. n the left, two ulcers on the plantar 
surface are
dry and full thickness, >1cm each with no erythema and the base 
is clean.

Discharge PE:

PE: 97.9 88 142/62 18 100%RA
General: comfortable, NAD
___: RRR, no murmurs
Pulm: no respiratory distress
Abdomen: soft, NT, ND
Ext: b/l: P/D/D/D
Right toe amputation site is well healed with dry skin over the 
incision. The two ulcers on the left plantar surface are dry and 
full thickness,<1cm with no erythema and the base is clean. The 
bypass incision is clean, dry, intact, with mild oozing in the 
superior portion. The femoral access site has no signs of seroma 
or hematoma.
 
Pertinent Results:
___ 06:20AM BLOOD WBC-9.2 RBC-2.48* Hgb-7.9* Hct-23.7* 
MCV-96 MCH-31.9 MCHC-33.3 RDW-15.7* RDWSD-55.6* Plt ___
___ 06:45AM BLOOD WBC-11.7* RBC-2.46* Hgb-7.6* Hct-23.4* 
MCV-95 MCH-30.9 MCHC-32.5 RDW-15.9* RDWSD-55.2* Plt ___
___ 10:40AM BLOOD WBC-11.7* RBC-2.54* Hgb-7.9* Hct-23.8* 
MCV-94 MCH-31.1 MCHC-33.2 RDW-16.3* RDWSD-56.8* Plt ___
___ 05:10AM BLOOD WBC-11.7* RBC-2.43* Hgb-7.6* Hct-22.6* 
MCV-93 MCH-31.3 MCHC-33.6 RDW-16.9* RDWSD-57.4* Plt ___
___ 04:40PM BLOOD WBC-16.5*# RBC-2.72* Hgb-8.4* Hct-25.7* 
MCV-95 MCH-30.9 MCHC-32.7 RDW-16.6* RDWSD-57.3* Plt ___
___ 06:50AM BLOOD WBC-9.6 RBC-3.42* Hgb-10.8* Hct-33.2* 
MCV-97 MCH-31.6 MCHC-32.5 RDW-14.6 RDWSD-52.8* Plt ___
___ 07:15AM BLOOD WBC-9.3 RBC-3.35* Hgb-10.9* Hct-32.7* 
MCV-98 MCH-32.5* MCHC-33.3 RDW-14.9 RDWSD-53.6* Plt ___
___ 07:10AM BLOOD WBC-9.9 RBC-3.42* Hgb-10.9* Hct-33.3* 
MCV-97 MCH-31.9 MCHC-32.7 RDW-14.8 RDWSD-53.4* Plt ___
___ 09:25PM BLOOD WBC-10.4* RBC-3.71* Hgb-11.7* Hct-37.1* 
MCV-100* MCH-31.5 MCHC-31.5* RDW-15.8* RDWSD-58.1* Plt ___
___ 06:20AM BLOOD Plt ___
___ 06:45AM BLOOD Plt ___
___ 10:40AM BLOOD Plt ___
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD ___ PTT-30.5 ___
___ 04:40PM BLOOD Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD ___ PTT-32.3 ___
___ 07:15AM BLOOD Plt ___
___ 07:10AM BLOOD Plt ___
___ 09:25PM BLOOD Plt ___
___ 09:25PM BLOOD ___ PTT-35.4 ___
___ 06:20AM BLOOD Glucose-210* UreaN-26* Creat-1.5* Na-140 
K-4.2 Cl-103 HCO3-22 AnGap-15
___ 06:45AM BLOOD Glucose-141* UreaN-25* Creat-1.4* Na-139 
K-4.1 Cl-104 HCO3-21* AnGap-14
___ 10:40AM BLOOD Glucose-157* UreaN-22* Creat-1.5* Na-141 
K-4.0 Cl-105 HCO3-23 AnGap-13
___ 05:10AM BLOOD Glucose-236* UreaN-21* Creat-1.4* Na-139 
K-4.5 Cl-104 HCO3-19* AnGap-16
___ 04:40PM BLOOD Glucose-226* UreaN-24* Creat-1.4* Na-141 
K-4.5 Cl-109* HCO3-18* AnGap-14
___ 06:50AM BLOOD Glucose-189* UreaN-28* Creat-1.4* Na-139 
K-4.4 Cl-102 HCO3-23 AnGap-14
___ 07:15AM BLOOD Glucose-149* UreaN-26* Creat-1.5* Na-139 
K-4.6 Cl-103 HCO3-21* AnGap-15
___ 07:10AM BLOOD Glucose-114* UreaN-23* Creat-1.5* Na-138 
K-4.7 Cl-104 HCO3-21* AnGap-13
___ 09:25PM BLOOD Glucose-125* UreaN-30* Creat-1.9* Na-141 
K-5.1 Cl-106 HCO3-20* AnGap-15
___ 06:20AM BLOOD Calcium-8.5 Phos-3.5 Mg-1.9
___ 06:45AM BLOOD Calcium-8.5 Phos-3.4 Mg-1.8
___ 10:40AM BLOOD Calcium-8.5 Phos-2.6* Mg-1.9
___ 05:10AM BLOOD Calcium-8.0* Phos-3.5 Mg-2.3
___ 04:40PM BLOOD Calcium-7.6* Phos-3.9 Mg-1.5*
___ 06:50AM BLOOD Calcium-9.6 Phos-3.9 Mg-1.8
___ 07:15AM BLOOD Calcium-9.2 Phos-4.1 Mg-2.0
___ 07:10AM BLOOD Calcium-9.2 Phos-3.7 Mg-1.7
___ 09:25PM BLOOD Calcium-9.9 Phos-3.9 Mg-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a PMH of Hypertension, 
IDDM, Peripheral Neuropathy, Sleep Apnea, Renal failure, PVD, 
GOUT, Coronary Artery Disease(CAD)GAMMOPATHY, Colonic Polyps, 
Diabetic Neuropathy, Anemia, Peptic Ulcer Disease (PUD)Restless 
Leg Syndrome, Osteomyelitis, Charcot foot, basal cell carcinoma, 
ischemic cardiomyopathy, Transient Ischemic Attack (TIA). He has 
a history of left behind knee popliteal stent with recurrent, 
nonhealing, wound of L foot. He was admitted to this floor with 
a nonhealing left midfoot plantar ulcer. After clinical 
evaluation the decision was made to perform a left lower 
extremity angiography, revealing this findings:
1. Patent infrarenal abdominal aorta.
2. Patent bilateral iliac systems.
3. Patent left common femoral artery and profunda femoris.
    There is evidence of high-grade focal stenosis at the
    origin of the SFA caused by calcified plaque.  The
    remainder of the SFA is diseased, but otherwise patent.
    Distally in the SFA at the level of ___ canal,
    there is a ___ area with at least 2 areas of focal
    stenosis.
4. The left popliteal artery is occluded at the level of
    the previously placed stent behind the knee.
5. The remainder of the popliteal artery appears to fill
    retrograde via a collateral.
6. The left anterior tibial artery and peroneal arteries
    provide collateral flow to the foot; however, the
    anterior tibial artery is diseased proximally.
7. There is no true dorsalis pedis or posterior tibialis in
    the foot.

With these findings, the decision was made to reestablish 
vascularity with a left lower extremity femoral-peroneal bypass 
utilizing great saphenous vein graft from the same leg. He 
tolerated well the procedure and had an uneventful postoperative 
course, to ___ he has positive left ___ and peroneal 
signals.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Cetirizine 10 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Carbidopa-Levodopa (___) 1 TAB PO DAILY 
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. NovoLIN ___ (insulin NPH and regular human) 100 unit/mL 
(70-30) subcutaneous BID 
7. Ferrous GLUCONATE 324 mg PO DAILY 
8. Cilostazol 50 mg PO DAILY 
9. Clopidogrel 75 mg PO DAILY 
10. Temazepam 30 mg PO QHS 
11. Amitriptyline 50 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
Take only if required 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*60 Tablet Refills:*0 
2.  Nicotine Patch 14 mg TD DAILY smoking cessation 
Do not use if you can avoid tobacco on your own.  
3.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - Severe 

  Reason for PRN duplicate override: Alternating agents for 
similar severity
Use only if in severe pain. 
RX *oxycodone 10 mg 1 tablet(s) by mouth four times a day Disp 
#*30 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY:PRN constipation 
Use only if necessary  
5.  Senna 8.6 mg PO BID:PRN constipation 
Use only if necessary 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0 
6.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth once a day Disp #*60 
Capsule Refills:*0 
7.  Amitriptyline 50 mg PO QHS 
RX *amitriptyline 50 mg 1 tablet(s) by mouth at bedtime Disp 
#*60 Tablet Refills:*0 
8.  Aspirin 325 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
once a day Disp #*90 Tablet Refills:*0 
9.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*60 
Tablet Refills:*0 
10.  Carbidopa-Levodopa (___) 1 TAB PO DAILY 
RX *carbidopa-levodopa 25 mg-100 mg 1 tablet(s) by mouth once a 
day Disp #*60 Tablet Refills:*0 
11.  Cetirizine 10 mg PO DAILY 
RX *cetirizine [24Hour Allergy] 10 mg 1 tablet(s) by mouth once 
a day Disp #*30 Tablet Refills:*0 
12.  Cilostazol 50 mg PO DAILY 
RX *cilostazol 50 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 
13.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
14.  Ferrous GLUCONATE 324 mg PO DAILY 
RX *ferrous gluconate 324 mg (38 mg iron) 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
15.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*60 Tablet Refills:*0 
16.  NovoLIN ___ (insulin NPH and regular human) 100 unit/mL 
(70-30) subcutaneous BID 
RX *insulin NPH and regular human [Novolin 70/30] 100 unit/mL 
(70-30) 1 ml SC twice a day Disp #*60 Vial Refills:*0 
17.  Temazepam 30 mg PO QHS 
RX *temazepam 30 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Peripheral Vascular Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
WHAT TO EXPECT: 
 1. It is normal to feel tired, this will last for ___ weeks  
 You should get up out of bed every day and gradually increase 
your activity each day  
 Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs  
 Increase your activities as you can tolerate- do not do too 
much right away! 
 2. It is normal to have swelling of the leg you were operated 
on: 
 Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night 
 Avoid prolonged periods of standing or sitting without your 
legs elevated 
 3. It is normal to have a decreased appetite, your appetite 
will return with time  
 You will probably lose your taste for food and lose some 
weight  
 Eat small frequent meals 
 It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing 
 To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION: 
 Take aspirin as instructed  
 Follow your discharge medication instructions

 
Followup Instructions:
___